US07902181B2
a) (S)-tert-Butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate
1,1′-Bis(diphenylphosphino)ferrocene (0.097 g) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride DCM complex (0.141 g) were stirred in dry dimethylsulfoxide (5 mL) under nitrogen for 10 minutes. Potassium acetate (1.016 g), (S)-tert-butyl 2-((S)-1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate (1.73 g) dissolved in dry DMSO (5 mL) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.165 g) were added and the reaction was heated at 80° C. overnight. The reaction mixture was cooled, diluted with water and extracted with ethyl acetate. The extracts were washed with brine then dried and evaporated. The crude material was purified by flash silica chromatography, eluting with ethyl acetate to give the subtitle compound as a colourless foam (1.28 g).

reactant | Potassium acetate | 1.016 g | C(C)(=O)[O-].[K+]
reactant | (S)-tert-butyl 2-((S)-1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate | 1.73 g | NC([C@H](CC1=CC=C(C=C1)I)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C20H28IN3O4
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.165 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | 0.097 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (S)-tert-Butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate | 1.28 g | NC([C@H](CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C26H40BN3O6
